US07157491B2
4-(4-Methoxyphenyl)-1-benzothiophene
A mixture of trifluoromethanesulfonic acid 4,5-dihydro-1-benzothiophene-4-yl ester (9.0 g, 31.7 mmol), Na2CO3 (39.6 ml 2 N aqueous, 79.2 mmol), Pd(PPh3)4 (1.83 g, 1.6 mmol), 4-methoxyboronic acid (5.78 mg, 38.03 mmol), and ethylene glycol dimethyl ether (350 ml) was heated to reflux for 6 h. The reaction was cooled, diluted with EtOAc and the layers separated. The organic layer was dried over anhydrous Na2SO4, passed through a silica plug and concentrated to 5.0 g solid (1.44:1 ratio of desired to [6,7,6′,7′-tetrahydro-[4,4′]bi[benzo[b]thiophenyl]). This material was dissolved in toluene (50 ml) and activated MnO2 (4.5 g) was added. The mixture was refluxed overnight, cooled, filtered, and concentrated to afford a 5 g solid (1.4:1 ratio of [4,4′]bi[benzo[b]thiophenyl] to desired). Column chromatography (3:97 EtOAc/hexanes) managed to isolate 880 mg of pure product: 1H NMR (300 MHz, DMSO-d6): δ 3.83 (3H, s), 7.09 (2H, d, J=8.6 Hz), 7.33 (1H, d, J=7.2 Hz), 7.40–7.45 (2H, m), 7.51 (2H, d, J=8.7 Hz), 7.79 (1H, d, J=5.5 Hz), 7.99 (1H, d, J=8.0 Hz).

reactant | trifluoromethanesulfonic acid 4,5-dihydro-1-benzothiophene-4-yl ester | 31.7 mmol, 9.0 g | S1C=CC2=C1C=CCC2OS(=O)(=O)C(F)(F)F | C9H7F3O3S2
reactant | Na2CO3 | 79.2 mmol, 2 N, 39.6 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethylene glycol dimethyl ether | 350 ml | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 1.6 mmol, 1.83 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-Methoxyphenyl)-1-benzothiophene | 5 g | COC1=CC=C(C=C1)C1=CC=CC2=C1C=CS2 | C15H12OS
